US07312359B2
4-(4-Fluoro-phenyl)-4-oxo-butyric acid (10.0 g, 51 mmol), thiophenol (5.2 g, 51 mmol) and powdered potassium carbonate (13.8 g, 100 mmol) were added to 25 mL of dimethyl sulfoxide (DMSO). The reaction mixture was heated to 110° C. for 2 hours, then cooled and diluted by addition of 250 mL water. The aqueous mixture was extracted three times with 100 mL of EtOAc, and the combined organic layers were dried (MgSO4), and evaporated under reduced pressure to yield 11 g (38.5 mmol, 75.5%) of 4-oxo-4-(4-phenylsulfanyl-phenyl)-butyric acid as a crude solid. MS: 287 (M+H)+.

reactant | 4-(4-Fluoro-phenyl)-4-oxo-butyric acid | 51 mmol, 10.0 g | FC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9FO3
reactant | thiophenol | 51 mmol, 5.2 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | water | 250 mL | O | H2O
product | 4-oxo-4-(4-phenylsulfanyl-phenyl)-butyric acid | 38.5 mmol, 11 g, 75.5% | O=C(CCC(=O)O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C16H14O3S
